US06599902B2
Synthesis of 3-[1-(4-{(S)-2-[(Cyclopropyl-methyl-amino)-methyl]-pyrrolidine-1-carbonyl}-3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-5-(2,6-dichlorophenylmethanesulfonyl)-1,3-dihydro-indol-2-one
A mixture of 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (165 mg, 0.33 mmol), cyclopropyl-methyl-(S)-1-pyrrolidin-2-ylmethyl-amine (65 mg, 0.46 mmol), HOBt (687 mg, 0.5 mmol), EDAC (101 mg, 0.53 mmol) and TEA (0.1 mL) in DMF (4 mL) was stirred at rt for 48 hours. The reaction was concentrated, diluted with sodium bicarbonate, extracted with DCM. The combined DCM was dried, concentrated and purified on a silica gel column to give the titled compound.

reactant | 5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.33 mmol, 165 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)O)C | C23H18Cl2N2O5S
reactant | cyclopropyl-methyl-(S)-1-pyrrolidin-2-ylmethyl-amine | 0.46 mmol, 65 mg | C1(CC1)N(C[C@H]1NCCC1)C | C9H18N2
reactant | HOBt | 0.5 mmol, 687 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 0.53 mmol, 101 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 3-[1-(4-{(S)-2-[(Cyclopropyl-methyl-amino)-methyl]-pyrrolidine-1-carbonyl}-3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-5-(2,6-dichlorophenylmethanesulfonyl)-1,3-dihydro-indol-2-one | C1(CC1)N(C)C[C@H]1N(CCC1)C(=O)C=1C(=C(NC1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C | C32H34Cl2N4O4S
